US05914339
5-{2-[2-(3-Chlorophenyl)-2-hydroxyethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid disilver salt
To a stirred solution of 5-{2-[2-(3-chlorophenyl)-2-hydroxyethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid disodium salt (3.0 gm, 6.0 mmol) in distilled water, (in the dark) a solution of AgNO3 (2.3 g, 12.0 mmol) was added dropwise. After stirring at room temperature for 1 h the separated solid was filtered and washed with water and acetone. The solid was dried at room temperature under vacuum to give a colorless solid; yield 100%; mp 183-185; M+H 422.1.

reactant | 5-{2-[2-(3-chlorophenyl)-2-hydroxyethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid disodium salt | 6.0 mmol, 3.0 gm | [Na+].[Na+].ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)[O-])C(=O)[O-])C=C1)C)O
reactant | AgNO3 | 12.0 mmol, 2.3 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | O | H2O
product | 5-{2-[2-(3-Chlorophenyl)-2-hydroxyethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid disilver salt | yield 100% | [Ag+].[Ag+].ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)[O-])C(=O)[O-])C=C1)C)O | InChI=1S/C20H20ClNO7.2Ag/c1-11(22-10-15(23)13-3-2-4-14(21)9-13)7-12-5-6-16-17(8-12)29-20(28-16,18(24)25)19(26)27;;/h2-6,8-9,11,15,22-23H,7,10H2,1H3,(H,24,25)(H,26,27);;/q;2*+1/p-2
